US06452014B1
To a suspension of 5,6-dichloro-2-[2-[(2,4-dioxothiazolidin-5-ylidene)methyl]-1-(4-methylphenyl)sulfonylindol-5-yl]benzimidazole (100 mg, 0.172 mmol) in methanol (7.5 mL) was added aqueous sodium hydroxide (2 mol/L; 1.5 mL), and the mixture was heated to reflux for 3.5 h. The reaction mixture was cooled on an ice bath, and pH was adjusted to 7. The precipitated products were collected by filtration, washed with water, and dried. To a solution of the product (50 mg) in dimethylformamide (2 mL) was added 1,1′-carbonyldiimidazole (15 mg, 0.12 mmol), and the mixture was stirred at room temperature for 30 min. Hydrochloric acid (1 mol/L; 0.5 mL) and water were added to the mixture, and the precipitated product was filtered off and washed with water and ethanol to afford 5,6-dichloro-2-[2-[(2,4-dioxothiazolidin-5-ylidene)methyl]indol-5-yl]benzimidazole (18 mg, 24%).

reactant | 5,6-dichloro-2-[2-[(2,4-dioxothiazolidin-5-ylidene)methyl]-1-(4-methylphenyl)sulfonylindol-5-yl]benzimidazole | 0.172 mmol, 100 mg | ClC1=CC2=C(N=C(N2)C=2C=C3C=C(N(C3=CC2)S(=O)(=O)C2=CC=C(C=C2)C)C=C2C(NC(S2)=O)=O)C=C1Cl | C26H16Cl2N4O4S2
reactant | sodium hydroxide | 2 mol/L, 1.5 mL | [OH-].[Na+]
reactant | 1,1′-carbonyldiimidazole | 0.12 mmol, 15 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Hydrochloric acid | 1 mol/L, 0.5 mL | Cl | ClH
solvent | methanol | 7.5 mL | CO | CH4O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,6-dichloro-2-[2-[(2,4-dioxothiazolidin-5-ylidene)methyl]indol-5-yl]benzimidazole | 18 mg, 24% | ClC1=CC2=C(N=C(N2)C=2C=C3C=C(NC3=CC2)C=C2C(NC(S2)=O)=O)C=C1Cl | C19H10Cl2N4O2S
